US06320050B1
A solution of the mixture of 4-(1-carboxy-2-cyclopentyl-ethyl)-benzoic acid methyl ester and 4-(1-carboxy-2-cyclopentyl-ethyl)-benzoic acid methyl ester (24.2 mg, 0.08 mmol) in methylene chloride (0.87 mL) cooled to 0° C. was treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.05 mL, 0.10 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 10 min and at 25° C. for 30 min. The reaction mixture was then treated with a solution of 2-aminothiazole (19.3 mg, 0.19 mmol) and N,N-diisopropylethylamine (0.04 mL, 0.21 mmol) in tetrahydrofuran (0.44 mL). The reaction mixture was stirred at 25° C. for 4 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 4-[2-cyclopentyl-1-(thiazol-2-ylcarbamoyl)-ethyl]-benzoic acid methyl ester (18.1 mg, 57.6%) as an off-white solid: mp 54-56° C.; EI-HRMS m/e calcd for C19H22N2O3S(M+) 358.1351, found 358.1346.

reactant | 4-(1-carboxy-2-cyclopentyl-ethyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CC1CCCC1)C(=O)O)=O | C16H20O4
reactant | 4-(1-carboxy-2-cyclopentyl-ethyl)-benzoic acid methyl ester | 0.08 mmol, 24.2 mg | COC(C1=CC=C(C=C1)C(CC1CCCC1)C(=O)O)=O | C16H20O4
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 0.19 mmol, 19.3 mg | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 0.21 mmol, 0.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 0.87 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 0.44 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 0.10 mmol, 0.05 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-cyclopentyl-1-(thiazol-2-ylcarbamoyl)-ethyl]-benzoic acid methyl ester | 18.1 mg, 57.6% | COC(C1=CC=C(C=C1)C(CC1CCCC1)C(NC=1SC=CN1)=O)=O | C19H22N2O3S
